US07868188B2
N-[4-Methyl-5-(2-methylsulfonylaminopyrimidin-5-yl)-1,3-thiazol-2-yl]acetamide
A mixture of N-[5-(2-aminopyrimidin-5-yl)-4-methyl-1,3-thiazol-2-yl]acetamide (195 mg), methanesulfonic anhydride (0.65 g) and pyridine (20 mL) was heated to 100° C. for 10 minutes. Additional methanesulfonic anhydride (0.65 g) was added and heating to 100° C. was continued for a further 10 minutes. The mixture was cooled and poured into isohexane (400 mL). The supernatant liquid was decanted from the oily residue which was purified by preparative HPLC. There was thus obtained the title compound (37 mg); 1H NMR Spectrum: (DMSOd6) 2.15 (s, 3H), 2.33 (s, 3H), 3.34 (s, 3H), 8.68 (s, 2H), 11.53 (br s, 11H), 12.20 (br s, 1H); Mass Spectrum: M+H+ 328.

reactant | N-[5-(2-aminopyrimidin-5-yl)-4-methyl-1,3-thiazol-2-yl]acetamide | 195 mg | NC1=NC=C(C=N1)C1=C(N=C(S1)NC(C)=O)C | C10H11N5OS
reactant | methanesulfonic anhydride | 0.65 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | methanesulfonic anhydride | 0.65 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | isohexane | 400 mL | CCCC(C)C | C6H14
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | N-[4-Methyl-5-(2-methylsulfonylaminopyrimidin-5-yl)-1,3-thiazol-2-yl]acetamide | 37 mg | CC=1N=C(SC1C=1C=NC(=NC1)NS(=O)(=O)C)NC(C)=O | C11H13N5O3S2
